US06420426B1
A solution of 5-chloro-2-hydroxy-benzoic acid (20.0 g, 116 mmol) in heptane (232 mL, 0.5 M) was treated with thionyl chloride (25.4 mL, 348 mmol) and heated to 60° C. for 6 h. After cooling to room temperature, the solution was concentrated under reduced pressure to give 5-chloro-2-hydroxy-benzoyl chloride as a thick yellow oil (22 g) which was used without further purification.

reactant | 5-chloro-2-hydroxy-benzoic acid | 116 mmol, 20.0 g | ClC=1C=CC(=C(C(=O)O)C1)O | C7H5ClO3
reactant | thionyl chloride | 348 mmol, 25.4 mL | S(=O)(Cl)Cl | Cl2OS
solvent | heptane | 0.5 M, 232 mL | CCCCCCC | C7H16
product | 5-chloro-2-hydroxy-benzoyl chloride | 22 g | ClC=1C=CC(=C(C(=O)Cl)C1)O | C7H4Cl2O2
